US08629160B2
Preparation of 2-(benzo[b]thiophen-3-yl)-2-(3-(ethoxycarbonyl)phenylamino)acetic acid (I49)
To a solution of benzo[b]thiophen-3-ylboronic acid (500 mg, 2.81 mmol) and 2-oxoacetic acid hydrate (259 mg, 2.81 mmol) in acetonitrile (20 ml), was added ethyl 3-aminobenzoate (419 μl, 2.81 mmol). The reaction was stirred at r.t. for 72 hours, and then the solvent was evaporated under vacuum. The residue was used in the next step without any further purification.

reactant | benzo[b]thiophen-3-ylboronic acid | 2.81 mmol, 500 mg | S1C2=C(C(=C1)B(O)O)C=CC=C2 | C8H7BO2S
reactant | 2-oxoacetic acid hydrate | 2.81 mmol, 259 mg | O.O=CC(=O)O
reactant | ethyl 3-aminobenzoate | 2.81 mmol, 419 μl | NC=1C=C(C(=O)OCC)C=CC1 | C9H11NO2
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | 2-(benzo[b]thiophen-3-yl)-2-(3-(ethoxycarbonyl)phenylamino)acetic acid | S1C2=C(C(=C1)C(C(=O)O)NC1=CC(=CC=C1)C(=O)OCC)C=CC=C2 | C19H17NO4S
